datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CC[N+](CC)(CC)[BH-:11](Br)[H:10]>>C1=CC=C([N:31]=[C:20]([H:10])[O-:21])C=C1.CC[N+](CC)(CC)[BH:11]Br 10,11=10,20;20,21=21"
"C1CCC[C:20](=[O:21])CC1.CC[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](CC)[C:73]1=[S:74]>>CC[N:82]1[C:11](=[O:12])[CH:10]([C:20]2([O-:21])CCCCCC2)[C:61](=[O:62])[N:82](CC)[C:73]1=[S:74] 10,11=10,20;12=11,12;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:92][C:61]([CH-:10][N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:61](=[O:62])[O:92]CC)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C1CC[C:11](=[CH2:10])CC1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].FC(F)(F)[S:20][CH2:10][C+:11]1CCCCC1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:13]1=[CH:12][CH:11]([H:10])[C:62](C)=[CH:63][CH2:64]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>C[C+:13]1[CH:12]=[CH:11][C:62](C)=[CH:63][CH2:64]1.C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[N:12](C)[N:11]=[CH2:10]>>C[N+:12](C)=[N:11][CH2:10][C:20]1([C:41]2=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10,11=10,20;12=11,12"
"CCC[Sn:63](CCC)(CCC)[CH2:62][CH:11](C)[H:10].[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CCC[Sn:63](CCC)(CCC)[CH2:62][CH+:11]C.[H:10][CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20"
"C1=CC=C(/[C:11](=[CH:10]/[C:61](C2=CC=CC=C2)=[O:62])[O-:12])C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[C:61](C2=CC=CC=C2)=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[CH:11]=[CH2:10]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][CH+:11]C)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([CH:20]([N:21](C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.[NH2:10][NH2:61]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][NH2:61])[N:21](C)C)[CH:36]=[CH:35]1 10=20;20,21=21"
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][C:11](C)=[CH2:10]>>COC1=CC=C([CH:20]([CH2:10][C:11](C)=[O+:12][Si:63]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[C:63]([NH:12][C:11](C1=CCCCC1)=[CH2:10])=[O:64]>>C[C:22](=[CH:21][CH:20]([CH2:10][C:11](C1=CCCCC1)=[NH+:12][C:63](C)=[O:64])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:11]1=[CH:10]CCC1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2CCC[C+:11]2C)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)(C)C[Si:11](C)(C)[H:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC(C)(C)C[Si+:11](C)C.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
CC(C)(C)[N:61]1[C-:10]=[N+:71](C)[CH:63]=[CH:62]1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)[N:61]1[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)=[N+:71](C)[CH:63]=[CH:62]1 10=20
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CC[Si:11](C)(C)[H:10]>>CC[O:33][C:22](=[CH:21][CH2:20][H:10])[O-:23].CC[Si+:11](C)C 10,11=10,20;20,21=21,22;22,23=23"
